US04743685
(H) (3S)-2-[[[1-(2-Amino-4-thiazolyl)-2-[[1[[[[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)methyl]amino]sulfonyl]amino]carbonyl]-2-oxo-3azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2methylpropanoic acid
Trifluoroacetic acid (4.7 ml) was added dropwise to a stirred suspension of (3S)-2-[[1(2-amino-4-thiazolyl)-2-[[1-[[[[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)methyl]amino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, diphenylmethyl ester (131 mg, 0.113 mmole) in 3 ml of dichloromethane and 0.3 ml anisole at 0° C. After stirring 45 minutes at 5° C., 2 ml of toluene was added and the volatiles were removed in vacuo. The resulting oil was washed with hexane (3×4 ml) and triturated to a solid with 10 ml of ether. The solid was washed once with ether (10 ml) and dried in vacuo. The above reaction and work-up were repeated on 0.166 mmole of (3S)-2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)methyl]amino]sulfonyl]amino]carbonyl] -2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, diphenylmethyl ester. The crude solids were combined, dissolved in 2 ml of acetonitrile-water (40-60) (pH 2.5) and chromatographed on a column (200 ml) of macroreticular styrene-divinylbenzene copolymer, using an acetonitrile-water gradient. The desired material eluted at acetonitrile-water (20-80). The relevant fractions were combined and lyophilized to afford 103 mg of the title compound as a white solid, melting point 180° C., dec.

reactant | Trifluoroacetic acid | 4.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-methylpropanoic acid, diphenylmethyl ester | 0.113 mmole, 131 mg | CC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C17H18O2
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | (3S)-2-[[[1-(2-amino-4-thiazolyl)-2-[[1-[[[[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)methyl]amino]sulfonyl]amino]carbonyl] -2-oxo-3-azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2-methylpropanoic acid, diphenylmethyl ester | 0.166 mmole | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)NCC=1NC=C(C(C1)=O)O)=O)=NOC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C32H32N8O10S2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | CH3CN water | 2 ml, pH 2.5 | CC#N.O
product | (3S)-2-[[[1-(2-Amino-4-thiazolyl)-2-[[1[[[[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)methyl]amino]sulfonyl]amino]carbonyl]-2-oxo-3azetidinyl]amino]-2-oxoethylidene]amino]oxy]-2methylpropanoic acid | 103 mg | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)NCC=1NC=C(C(C1)=O)O)=O)=NOC(C(=O)O)(C)C | C19H22N8O10S2
